US06555560B2
[7-Oxo-2,3-dihydro-7H-[1,4]dioxino[2,3-h]chromen-2-yl]methyl 4-methylbenzenesulfonate
p-Toluenesulfonyl chloride (0.60 g, 3.15 mmole) was added to solution of (2S)-2-(hydroxymethyl)-2,3-dihydro-7H-[1,4]dioxino[2,3-h]chromen-7-one (0.41 g, 1.75 mmole) in 50 mL of pyridine. The solution was stirred at room temperature overnight under nitrogen. Water was added to quench the excess tosyl chloride and the solvent was removed in vacuum and replaced with methylene chloride. The solution was washed with 2N aqueous HCl, with saturated aqueous sodium bicarbonate, and with saturated brine, and dried over magnesium sulfate. Filtration, evaporation in vacuum and column chromatography on silica gel with 3% methanol/methylene chloride as eluant gave 0.36 g (54%) of the (R)-enantiomer of the title compound as a yellow solid, m.p. 190-191° C.

reactant | p-Toluenesulfonyl chloride | 3.15 mmole, 0.60 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (2S)-2-(hydroxymethyl)-2,3-dihydro-7H-[1,4]dioxino[2,3-h]chromen-7-one | 1.75 mmole, 0.41 g | OC[C@@H]1OC2=C(C=CC=3C(C=COC23)=O)OC1 | C12H10O5
reactant | Water | O | H2O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | [7-Oxo-2,3-dihydro-7H-[1,4]dioxino[2,3-h]chromen-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=CC=3C(C=COC23)=O)OC1 | C19H16O7S
